US07417062B2
Step 1: (S)-2-{[Cinnolin-3-ylmethyl-(7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester.
Experimental conditions analogous to Example 1, from 0.26 g (1.65 mmol) of cinnoline-3-carbaldehyde, 0.49 g (2.47 mmol) of (S)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester, 10 mL dichloromethane, and 0.52 mg (2.47 mmol) of sodium triacetoxyborohydride. The reaction was quenched with aqueous sodium bicarbonate. The residue from the organic layer was purified using flash chromatography (0-20% methanol in dichloromethane). The organic layer was concentrated under vacuum and dissolved in 5 mL dichloromethane. To this solution were added 0.34 mL (2.47 mmol) of triethylamine and 0.4 g (1.65 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride. After 1 hour the reaction mixture was purified using flash chromatography (10-100% ethyl acetate in hexane), gave 182 mg as a yellow solid. LC-MSD, m/z for C30H36N4O6 [M+H]+: 549.7

reactant | cinnoline-3-carbaldehyde | 1.65 mmol, 0.26 g | N1=NC(=CC2=CC=CC=C12)C=O | C9H6N2O
reactant | (S)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.47 mmol, 0.49 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN | C10H20N2O2
reactant | sodium triacetoxyborohydride | 2.47 mmol, 0.52 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 2.47 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 1.65 mmol, 0.4 g | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-2-{[Cinnolin-3-ylmethyl-(7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)CC=1N=NC2=CC=CC=C2C1 | C30H36N4O6
